US05162316
7-(2 Dimethylaminoethylamino)-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
In a similar manner to Example 13, reaction of 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.49 g) and N,N-dimethylethylenediamine (1.24 g) in ethanol (20 ml) yielded the title compound, 0.46 g, m.p. 181°-2° C. (recrystallised for methanol).

reactant | 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.49 g | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O2S
reactant | N,N-dimethylethylenediamine | 1.24 g | CN(CCN)C | C4H12N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 7-(2 Dimethylaminoethylamino)-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | CN(CCNC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC)C | C19H24N6O2
